* Schematics Netlist *



C_CB         5 0 100u 
C_C2         4 ua 100u 
R_RL         ua 0 4700
V_Vin         1 0 DC 0 AC 1 sin( 0V 100mV 1kHz )
Q_Q1         4 5 3 Q2N2222
R_R2         5 0 6824.85
R_RC         6 4 756.345
R_RS         1 2 100
C_C1         2 3 100u 
V_VCC         6 0 DC 16  
R_R1         5 4 7191.66
R_RE         3 0 298.975
