* AC source written the way LTspice exports it: "AC <magnitude> <phase>"
* (taken from a real Draft6.net export, where the trailing phase used to be
* concatenated onto the magnitude and turned "AC 1 0" into "10")
Vin 1 0 SINE(0 100m 1k) AC 1 0
RS 2 1 600
RL 2 0 1k
.ac dec 101 0.1 1.00GHz
.backanno
.end
